US07687491B2
(24g) 4-Bromo-2-chloro-1-(2-methylprop-1-en-1-yl)benzene
The crude product of the title compound was synthesized by conducting the similar reaction to that mentioned in Example 23 (23d) using isopropyltriphenylphosphonium iodide (5.4 g, 12.6 mmol), potassium t-butoxide (1.5 g, 13.5 mmol) and 4-bromo-2-chlorobenzaldehyde (2.0 g, 9.0 mmol) that was obtained in Example 24 (24f). Subsequently, the crude product of the title compound thus obtained was purified by chromatography on a silica gel column using a mixed solvent of ethyl acetate and hexane (0:10 to 6:94) as the eluent to afford the title compound (2.1 g) in a yield of 94% as a colourless oily product.

reactant | isopropyltriphenylphosphonium iodide | 12.6 mmol, 5.4 g | [I-].C(C)(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium t-butoxide | 13.5 mmol, 1.5 g | CC(C)([O-])C.[K+]
reactant | 4-bromo-2-chlorobenzaldehyde | 9.0 mmol, 2.0 g | BrC1=CC(=C(C=O)C=C1)Cl | C7H4BrClO
product | 4-Bromo-2-chloro-1-(2-methylprop-1-en-1-yl)benzene | BrC1=CC(=C(C=C1)C=C(C)C)Cl | C10H10BrCl
